US07153855B2
A mixture of 4-[7-chloro-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopropyl-2-pyrimidinamine (75 mg, 0.19 mmol) and 2-methoxyethylamine (5 mL, 58 mmol) was heated in a sealed tube at 140° C. for 24 hours. After cooling to room temperature, the mixture was concentrated. Flash chromatography (1:1 to 1:3 hexanes-ethyl acetate) provided 3-[2-(cyclopropylamino)-4-pyrimidinyl]-N-(2-methoxyethyl)-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-7-amine (77.7 mg, 95%) as a yellow solid. 1H NMR (CDCl3): δ 8.03 (d, 1 H), 7.96 (d, 1 H), 7.60 (d, 2 H), 7.31 (t, 1 H), 7.00 (d, 2 H), 6.41 (d, 1 H), 6.31 (t, 1 H), 6.04 (d, 1 H), 5.40 (broad, 1 H), 3.89 (s, 3 H), 3.72 (t, 2 H), 3.57 (q, 2 H), 3.43 (s, 3 H), 2.88 (m, 1 H), 0.88 (m, 2 H), 0.64 (m, 2 H); MS m/z 431 (M+1).

reactant | 4-[7-chloro-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopropyl-2-pyrimidinamine | 0.19 mmol, 75 mg | ClC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CC2)C2=CC=C(C=C2)OC | C21H18ClN5O
reactant | 2-methoxyethylamine | 58 mmol, 5 mL | COCCN | C3H9NO
product | 3-[2-(cyclopropylamino)-4-pyrimidinyl]-N-(2-methoxyethyl)-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-7-amine | 77.7 mg, 95% | C1(CC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2NCCOC)C2=CC=C(C=C2)OC | C24H26N6O2
